US07022730B2
The compound Bis(4-chloroindol-3-yl)-(5-carboxy-2-furyl)methane was prepared following procedure A, starting from 4-chloro indole and 5-formyl 2-furan carboxylic acid. LC: Tr 2.31 min, MS: 425 (M+H)+

reactant | 4-chloro indole | ClC1=C2C=CNC2=CC=C1 | C8H6ClN
reactant | 5-formyl 2-furan carboxylic acid | C(=O)C1=CC=C(O1)C(=O)O | C6H4O4
product | Bis(4-chloroindol-3-yl)-(5-carboxy-2-furyl)methane | ClC1=C2C(=CNC2=CC=C1)C(C=1OC(=CC1)C(=O)O)C1=CNC2=CC=CC(=C12)Cl | C22H14Cl2N2O3
